*****************************************************************
* NXP PSMN9R0-25MLC
*
* Polarity N-Channel
* Ratings 25V/8.650000E-003OHMS/54.6424731840961A
*
* Date Created Wed Jun 13 05:03:21 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN9R0-25MLC DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00045

RDS 7 4 25000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00590861180042803 TC=0.00583685570112713,-5.86769212154169E-06
RBD 9 4 0.00303404058868735 TC=0.00583685570112713,-5.86769212154169E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 6.67553921282385e-10
RG 1 2 1.85531376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -0.1	252.786
+ 0	222.665
+ 0.1	213.115
+ 0.2	186.828
+ 0.5	160.646
+ 1	134.3
+ 2	109.149
+ 3	97.23
+ 4	89.607
+ 5	84.242
+ 6	80.23
+ 8	74.411
+ 10	70.567
+ 12	67.787
+ 15	64.795
+ 20	61.629



.MODEL MINT NMOS(Vto=1.8743844010463 Kp=1.028647e+002 Nfs=400000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=27.5 Ibv=2.500000E-004 Rs=1E-6 Is=4.54332121552595e-13
+ N=1 M=0.62 VJ=0.92 Fc=0.5 Cjo=7.08685e-10 Tt=1.479472e-08)

.ENDS

